US04289883
1.0 g of 8-(2-propynyloxy)-5-(3-chloro-2-hydroxypropoxy)-3,4-dihydrocarbostyril was dissolved in 30 ml of methanol, and 4.5 ml of 28% ammonium hydroxide was added to the solution followed by heating at 70° C. for 10 hours. The methanol and the ammonium hydroxide were evaporated under reduced pressure, and the residue was made acidic with hydrochloric acid and washed with ethyl acetate. The aqueous layer was separated, made alkaline with sodium hydroxide, extracted with chloroform, washed with water and then dried over anhydrous sodium sulfate. The chloroform was evaporated under reduced pressure, and the residue was purified by silica gel chromatography, and the product was converted to the hydrochloride thereof by adding methanol-hydrochloric acid. Recrystallization from methanol-diethyl ether afforded 0.5 g of 8-(2-propynyloxy)-5-(3-amino-2-hydroxypropoxy)-3,4-dihydrocarbostyril hydrochloride having a melting point of 196.5°-198° C.

reactant | 8-(2-propynyloxy)-5-(3-chloro-2-hydroxypropoxy)-3,4-dihydrocarbostyril | 1.0 g | C(C#C)OC=1C=CC(=C2CCC(NC12)=O)OCC(CCl)O | C15H16ClNO4
reactant | ammonium hydroxide | 4.5 ml | [OH-].[NH4+]
solvent | methanol | 30 ml | CO | CH4O
product | 8-(2-propynyloxy)-5-(3-amino-2-hydroxypropoxy)-3,4-dihydrocarbostyril hydrochloride | 0.5 g | Cl.C(C#C)OC=1C=CC(=C2CCC(NC12)=O)OCC(CN)O | InChI=1S/C15H18N2O4.ClH/c1-2-7-20-13-5-4-12(21-9-10(18)8-16)11-3-6-14(19)17-15(11)13;/h1,4-5,10,18H,3,6-9,16H2,(H,17,19);1H
